US05171746
N-(5-chlorobenzothiazol-2-yl)thioethyl--N'-ethylurea
Dissolved in 10 ml of ethanol was 1.00 g (4.09 mmol) of 2-(2-aminoethylthio)-5-chlorobenzothiazole, and 0.36 ml (4.55 mmol) of ethyl isocyanate were added to the solution, which was stirred at room temperature for 15 minutes. The precipitated white crystals were then filtered out to obtain 1.15 g of the title compound (89% yield).

reactant | 2-(2-aminoethylthio)-5-chlorobenzothiazole | 4.09 mmol, 1.00 g | NCCSC=1SC2=C(N1)C=C(C=C2)Cl | C9H9ClN2S2
reactant | ethyl isocyanate | 4.55 mmol, 0.36 ml | C(C)N=C=O | C3H5NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(5-chlorobenzothiazol-2-yl)thioethyl--N'-ethylurea | 1.15 g, 89% yield | ClC=1C=CC2=C(N=C(S2)SCCNC(=O)NCC)C1 | C12H14ClN3OS2
